US04404205
1.18 g. of ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate is dissolved in 12 ml. of acetone and allowed to stand for 24 hours at room temperature in the presence of 1.25 ml. of methyl iodide. The reaction mixture is diluted with diethyl ether. The precipitated crystals are filtered. 0.8 g. (43%) of 3-ethoxycarbonyl-1-methyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepinium iodide is obtained melting at 202°-204° C.

reactant | ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate | O=C1C(=CN=C2N1CCCCC2)C(=O)OCC | C12H16N2O3
reactant | acetone | CC(=O)C | C3H6O
reactant | methyl iodide | CI | CH3I
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-ethoxycarbonyl-1-methyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepinium iodide | 43% | [I-].C(C)OC(=O)C1=C[N+](=C2N(CCCCC2)C1=O)C | InChI=1S/C13H19N2O3.HI/c1-3-18-13(17)10-9-14(2)11-7-5-4-6-8-15(11)12(10)16;/h9H,3-8H2,1-2H3;1H/q+1;/p-1
